US04977175
4-Methyl-2-nitroaniline, 30 g (197 mmols), was dissolved in 500 ml of methylene chloride and a liquid mixture of 52 ml (1.378 mol) of formic acid and 31 ml (328 mmols) of acetic anhydride was added dropwise to the solution. The mixture was stirred at room temperature for 16 hours. The solvent was distilled off under reduced pressure. The resulting crystals were washed with ether to give 34.7 g (97.7%) of N-(4-methyl-2-nitrophenyl)formamide.

reactant | 4-Methyl-2-nitroaniline | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | formic acid | 1.378 mol, 52 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 328 mmols, 31 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methyl-2-nitrophenyl)formamide | 34.7 g, 97.7% | CC1=CC(=C(C=C1)NC=O)[N+](=O)[O-] | C8H8N2O3
